US09216999B2
3-[4-Methyl-3-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)piperidin-1-yl]-3-oxopropanenitrile
tert-Butyl 4-methyl-3-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)piperidine-1-carboxylate (5.6 mg, 0.016 mmol) in 4 M hydrogen chloride-1,4-dioxane solution (1.0 mL) was stirred under cooling with ice for 1 hour and concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (1 mL) and mixed with 2-cyanoacetic acid (2.7 mg, 0.0314 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (11.9 mg, 0.0314 mmol) and then with N,N-diisopylethylamine (0.0082 mL, 0.0471 mmol) and stirred at room temperature for 2 hours. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel thin layer chromatography (NH-PLC05 plate manufactured by Fuji Silysia Chemical Ltd.: chloroform/methanol=15/1 (v/v)) and further purified by silica gel thin layer chromatography (ethyl acetate) to give the title compound as a pale yellow solid (0.62 mg, yield 12%).

reactant | tert-Butyl 4-methyl-3-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)piperidine-1-carboxylate | 0.016 mmol, 5.6 mg | CC1C(CN(CC1)C(=O)OC(C)(C)C)C=1N=NN2C=NC3=C(C21)C=CN3 | C18H24N6O2
reactant | 2-cyanoacetic acid | 0.0314 mmol, 2.7 mg | C(#N)CC(=O)O | C3H3NO2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.0314 mmol, 11.9 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | water | O | H2O
solvent | hydrogen chloride-1,4-dioxane | 4 M, 1.0 mL | O1CCOCC1.Cl
product | 3-[4-Methyl-3-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)piperidin-1-yl]-3-oxopropanenitrile | 0.62 mg, yield 12% | CC1C(CN(CC1)C(CC#N)=O)C=1N=NN2C=NC3=C(C21)C=CN3 | C16H17N7O
